US06194409B1
92b. 2-(R)-Ethoxycarbonylamino-3-isopropylsulfanyl-3-methyl-butyric acid
2-(R)-Amino-3-isopropylsulfanyl-3-methyl-butyric acid (approx. 27 mmol; crude material from the previous step) was dissolved in 40 mL of water and 40 mL of dioxane and pH 9.5 was adjusted by adding aqueous NaOH. Ethyl chloroformate (3.3 mL) was slowly added at 5° C. while maintaining pH 9.5 by addition of the appropriate amount of aqueous NaOH. Stirring was continued for 6 h at room temperature. Aqueous NaOH was added (pH 11) and the dioxane removed in vacuo followed by extraction of the remaining aqueous solution with ethyl acetate. KHSO4 was added and the acidified aqueous solution extracted with ethyl acetate several times. Evaporation of the solvent in vacuo gave a yellow oil, which was purified by HPLC (RP-1 8; pH 2.3; H2O/CH3OH 3/7) to give 1.50 g (21%) of the title compound as a colorless oil. (+)-APCI-MS: 264 (MH+).

reactant | 2-(R)-Amino-3-isopropylsulfanyl-3-methyl-butyric acid | N[C@H](C(=O)O)C(C)(C)SC(C)C | C8H17NO2S
reactant | dioxane | 40 mL | O1CCOCC1 | C4H8O2
reactant | NaOH | [OH-].[Na+]
reactant | Ethyl chloroformate | 3.3 mL | ClC(=O)OCC | C3H5ClO2
solvent | water | 40 mL | O | H2O
product | 2-(R)-Ethoxycarbonylamino-3-isopropylsulfanyl-3-methyl-butyric acid | 1.50 g, 21% | C(C)OC(=O)N[C@H](C(=O)O)C(C)(C)SC(C)C | C11H21NO4S
